US07700641B2
Synthesis of 1′-{[5-(3-chlorophenyl)-2-furyl]methyl}spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one
Following the procedure described in EXAMPLE 10.47, and making non-critical variations using spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one to replace 4′-bromospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one, and 2-(chloromethyl)-5-[3-chlorophenyl]furan to replace 2-(bromomethyl)-5-(trifluoromethyl)furan, the title compound was obtained (22%) as a colorless solid: mp 205-207° C.; 1H NMR (300 MHz, CDCl3) δ 7.55 (t, 1H), 7.46 (dt, 1H), 7.28 (d, 2H), 7.21-7.14 (m, 2H), 7.09-7.04 (m, 2H), 6.59 (d, 1H), 6.50 (s, 1H), 6.40 (d, 1H), 6.10 (s, 1H), 5.84 (dd, 2H), 4.98 (ABq, 2H), 4.80 (ABq, 2H); 13C NMR (75 MHz, CDCl3) δ 177.2, 155.9, 152.5, 149.2, 148.9, 142.4, 141.7, 134.8, 132.1, 132.0, 130.1, 128.9, 127.5, 124.0, 123.7, 123.6, 121.7, 119.4, 110.8, 109.2, 106.9, 103.0, 101.5, 93.6, 80.4, 58.2, 37.3; MS (ES+) m/z 472.2 (M+1).

reactant | spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | N1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C16H11NO4
reactant | 4′-bromospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | BrC1=C2C3(C(NC2=CC=C1)=O)COC=1C3=CC3=C(OCO3)C1 | C16H10BrNO4
reactant | 2-(chloromethyl)-5-[3-chlorophenyl]furan | ClCC=1OC(=CC1)C1=CC(=CC=C1)Cl | C11H8Cl2O
reactant | 2-(bromomethyl)-5-(trifluoromethyl)furan | BrCC=1OC(=CC1)C(F)(F)F | C6H4BrF3O
product | 1′-{[5-(3-chlorophenyl)-2-furyl]methyl}spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | ClC=1C=C(C=CC1)C1=CC=C(O1)CN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C27H18ClNO5
